US09062056B2
2-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl]-pentanoic acid ethyl ester
To a solution of 2-(2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl)-pentanoic acid ethyl ester (50 mg, 0.18 mmol) in DMF (5 ml) were added (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide (75 mg, 0.22 mmol) and K2CO3 (75 mg, 0.54 mmol) at room temperature under nitrogen atmosphere. The solution was heated to 60° C. for 3 hours. The solution was cooled and poured into water (100 ml) and EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc twice. The combined organics were dried (MgSO4), filtered and concentrated. The remaining residue was purified via silica gel flash column chromatography (Companion, 4 g silica gel, 20-100% EtOAc/hexanes) to give 85 mg (108%) of the title compound.

reactant | 2-(2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl)-pentanoic acid ethyl ester | 0.18 mmol, 50 mg | C(C)OC(C(CCC)CN1C(NC=2C1=NC=CC2)=O)=O | C14H19N3O3
reactant | (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethyl-ammonium iodide | 0.22 mmol, 75 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
reactant | K2CO3 | 0.54 mmol, 75 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl]-pentanoic acid ethyl ester | 85 mg, 108% | C(C)OC(C(CCC)CN1C(N(C=2C1=NC=CC2)CC2=CN(C1=CC=CC(=C21)C)C)=O)=O | C25H30N4O3
